US06872730B2
Concentrated sulfuric acid (20 ml) was cooled in an ice-water bath to 0° C. and added to a flask containing ethyl 5-(3-acetyloxyphenylthio)-4-oxopentanoate (920 mg, 3.4 mmol) at 0° C. The reaction was stirred at 0° C. for 15 minutes, and then poured over ice. The mixture was extracted with ethyl acetate, dried, filtered, and evaporated under vacuum to yield 700 mg (82%) of Ethyl 3-(6-hydroxybenzo[b]thiophen-3-yl)propanoate. NMR 1H DMSO-d6 δ: 9.59 (s, 1H), 7.59 (d, 1H, J=8.4 Hz), 7.25 (d, 1H, J=2.4 Hz), 7.08 (s, 1H), 6.89 (dd, 1H, J=2.4, 8.4 Hz), 4.06 (c, 2H, J=7.2 Hz), 2.99 (t, 2H, J=6.8 Hz), 2.70 (t, 2H, J=6.8 Hz), 1.16 (t, 1H, J=7.2 Hz).

reactant | ethyl 5-(3-acetyloxyphenylthio)-4-oxopentanoate | 3.4 mmol, 920 mg | C(C)(=O)OC=1C=C(C=CC1)SCC(CCC(=O)OCC)=O | C15H18O5S
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 3-(6-hydroxybenzo[b]thiophen-3-yl)propanoate | 700 mg, 82% | OC=1C=CC2=C(SC=C2CCC(=O)OCC)C1 | C13H14O3S
